US06949668B2
In a three-necked flask with a capacity of 3 liters, 253.11 g of methyl 5-bromo-3-(hydroxymethyl)benzoate were placed and mixed with 2000 ml of toluene, and the resultant mixture was agitated to prepare a solution. The resultant solution was mixed with 44 g of manganese dioxide, and the resultant reaction mixture liquid was heated to a temperature of 105° C. and agitated for 7 hours. The resultant reaction mixture liquid was allowed to be cooled to room temperature and filtered to remove a solid fraction therefrom, and the resultant filtrate was concentrated. The target compound, methyl 5-bromo-3-formylbenzoate was obtained in an amount of 236.79 g which corresponded to a yield of 94.3%.

reactant | methyl 5-bromo-3-(hydroxymethyl)benzoate | 3 liters, 253.11 g | BrC=1C=C(C=C(C(=O)OC)C1)CO | C9H9BrO3
catalyst | manganese dioxide | 44 g | [O-2].[O-2].[Mn+4]
solvent | toluene | 2000 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 5-bromo-3-formylbenzoate | yield of 94.3% | BrC=1C=C(C=C(C(=O)OC)C1)C=O | C9H7BrO3
